US03963712
In 30 ml of ethyl acetate was dissolved 470 mg of 7-phenoxyacetoamido-3-chloro-3-methyl-cepham-4-carboxylic acid p-nitrobenzylester. To the solution was added 470 mg of 5% palladium-charcoal and the solution was stirred for 19 hours in a stream of hydrogen. After the catalyst was filtered off from the reaction mixture, the filtrate was extracted with 50 ml of 2% aqueous sodium hydrogencarbonate solution. After the aqueous layer was separated and adjusted to pH 2 by adding diluted hydrochloric acid, the aqueous layer was extracted again with ethyl acetate. The ethyl acetate layer was washed with water, dried and distilled under reduced pressure. There was obtained 179 mg of 7-phenoxyacetoamido-3-chloro-3-methyl-cepham-4-carboxylic acid as a colourless powder (yield, 15%). The following NMR spectra agreed with those expected from the anticipated structure:

reactant | 7-phenoxyacetoamido-3-chloro-3-methyl-cepham-4-carboxylic acid p-nitrobenzylester | 470 mg | [N+](=O)([O-])C1=CC=C(COC(=O)C2C(CS[C@H]3N2C(C3NC(COC3=CC=CC=C3)=O)=O)(C)Cl)C=C1 | C23H22ClN3O7S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-charcoal | 470 mg | [Pd] | Pd
product | 7-phenoxyacetoamido-3-chloro-3-methyl-cepham-4-carboxylic acid | 179 mg | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)(C)Cl)C(=O)O)C1=O | C16H17ClN2O5S
